Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lactose
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None this hospitalization.
 
History of Present Illness:
This is a ___ with a history of remote CVA w/o residual deficit 
(seen on MRI), atypical chest pain, DJD who was walking on a 
sidewalk after leaving the grocery store and slipped on her 
sandal. She reportedly fell and hit her left knee and face 
without the ability to extend her arms. She had no antecedent 
chest pain, palpitations, diaphresis, lightheadedness. She lost 
consciousness and does not remember anything until arriving in 
the ED. No post-event weakness, confusion, tongue bite or 
incontinence.  

In the ED initial vitals were:98.3 96 177/82 16 95% RA  
- Labs/studies notable for:  
 - Troponin 0.38 --> 0.43, with MB 9 --> ___  
 - WBC 13.6, Hgb 13.1, Plt 288  
 - electrolytes normal  
- Imaging was significant for: No acute intracranial process but 
an acute frature through left lamina papyracea with fullness of 
the left medial rectus muscle for which concern for entrapment. 
Acute fracture through the left inferior pubic ramus and 
suspected fracture of the left superior ramus. 
- Trauma, Plastics, and Ophthalmology were consulted. Per 
discussion between ED and surgical attendings, her pubic 
injuries were non-operable. No note has yet been done. 
Ophthalmology felt there was no evidence of entrapment,  
- Patient was given: 1L NS  
- Vitals on transfer: 87 157/76 18 100/RA  

On the floor, she appears well and has no chest pain or other 
symptoms. No pain in her hips. I had a long discussion with the 
patient and her son about how we manage patients with troponin 
elevations. They refused IV heparin gtt and wanted to wait until 
the morning and repeated troponins. They agreed to starting a 
baby aspirin but did not feel starting beta blocker or statin 
('she's had high cholesterol her whole life and is 97'). She had 
one prior fall in ___ where she tripped at night on a pile of 
shoes. No history of bleeding.  

ROS: Negative.
 
Past Medical History:
- CVA w/o residual deficits  
- Hypertension  
- Hyperlipidemia
- DJD
- Constipation
- Prior history of shingles
- Neuropathy
- History of gallstones
 
Social History:
___
Family History:
Unknown.
 
Physical Exam:
Admission Physical Exam:
VS: 98.1 136/78 67 19 97/ra  
GENERAL: Very pleasant and in no acute distress.  
HEENT: Left orbital ecchymosis and dried blood in nares. 
Extraocular muscles intact.  
NECK: Supple  
CARDIAC: Regular rate and rhythm, I/VI systolic murmur.  
LUNGS: Resp were unlabored, no accessory muscle use. No 
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: Right leg: 2+ pulses, no tenderness at joints, Left 
leg with minimal tenderness at the trochanter but moves in all 
directions without difficulty. No edema.

Discharge Physical Exam:
Afebrile, BP 120s/80s, HR 60-70s
Exam otherwise unchanged.
 
Pertinent Results:
===============
Admission Labs:
===============
___ 05:04PM BLOOD WBC-13.6*# RBC-4.32 Hgb-13.1 Hct-39.5 
MCV-91 MCH-30.3 MCHC-33.2 RDW-13.2 RDWSD-43.8 Plt ___
___ 05:04PM BLOOD Neuts-83.2* Lymphs-11.8* Monos-4.0* 
Eos-0.1* Baso-0.5 Im ___ AbsNeut-11.34* AbsLymp-1.61 
AbsMono-0.55 AbsEos-0.01* AbsBaso-0.07
___ 07:00AM BLOOD ___ PTT-25.9 ___
___ 05:04PM BLOOD Glucose-123* UreaN-18 Creat-0.7 Na-136 
K-4.5 Cl-100 HCO3-25 AnGap-16
___ 05:04PM BLOOD cTropnT-0.38*
___ 07:00PM BLOOD CK-MB-11* MB Indx-10.4* cTropnT-0.43*

===============
Discharge Labs:
===============
___ 07:00AM BLOOD Calcium-9.4 Phos-3.3 Mg-2.0
___ 07:00AM BLOOD WBC-9.2 RBC-3.81* Hgb-11.3 Hct-34.5 
MCV-91 MCH-29.7 MCHC-32.8 RDW-13.4 RDWSD-44.7 Plt ___
___ 07:00AM BLOOD Glucose-88 UreaN-15 Creat-0.7 Na-140 
K-4.0 Cl-104 HCO3-29 AnGap-11
___ 05:15PM BLOOD CK-MB-9 cTropnT-0.21*

========
Imaging:
========
CT Head w/o Contrast ___
1. No acute intracranial process. 
2. Acute fracture through the left lamina papyracea which is 
mildly depressed. Fullness of the left medial rectus muscle for 
which correlation regarding the possibility of entrapment is 
suggested. 

CT C-spine w/o Contrast ___
1. No fracture or traumatic malalignment of the cervical spine. 
2. Mild multilevel degenerative changes as described above. 
3. 3 mm nodule in the right upper lobe.  In a low risk patient, 
no additional follow-up is needed. In a high risk patient, 
follow-up chest CT is recommended in ___ year. 
4. Moderate to severe atherosclerotic disease at the carotid 
bifurcation.

Pubic and Left Lower Extremity X-Ray ___
Impression: Acute fracture through the left inferior pubic ramus 
and
suspected fracture of the left superior pubic ramus. 

CXR ___
Impression: Moderate interstitial edema. No focal consolidation.

CT Abdomen/Pelvis w/o Contrast ___
1. Left inferior pubic ramus fracture appears well healed and 
chronic. No evidence of hematoma.
2. Gallstones but no evidence of cholecystitis.
3. Simple cysts with the kidneys bilaterally.
4. Small calcified uterine fibroid.
5. Moderate-to-severe degenerative disc disease of the 
thoracolumbar
spine.

Left Hand X-Ray ___
Impression: Degenerative changes as described. No acute bony 
injury seen.

EKG on the floor showed SR, rate of 70, NA, intervals with 
prolonged QTc 480, Twave inverstions in I, II, avF, V2-V5. 
Repeat EKG unchanged. 

=============
Microbiology:
=============
___ Urine Culture - Mixed Bacterial Flora
 
Brief Hospital Course:
___ with a history of remote CVA w/o residual deficit (seen on 
MRI), atypical chest pain, DJD with fall/syncopal event c/b 
pubic rami fracture, now with rising troponins.

# Elevated Cardiac Enzymes: The patient presents with rising 
troponins and CK-MB without chest pain or any atypical symptom. 
She also had acute changes of her EKG with T wave inversions in 
I, II, avF, V2-V5. Troponin peaked at 0.43 and trended down and 
was 0.21 at discharge. This was likely due to demand ischemia 
from stress in the setting of her fall.  We recommended to have 
a TTE however it was unable to be done on day of admission and 
she did not wish to stay to have this done. She understood the 
risks and wished to leave against medical advice. 

# Syncope c/b left orbital and pubic rami fractures: Her fall is 
described as mechanical as she tripped over her sandal. Given 
rising troponins, would consider cardiogenic etiology although 
the history is not consistent with this. No evidence for 
neurogenic or seizure as cause of syncope. Orthopedics 
recommended non-surgical management. Also with left orbital 
fracture and seen by Plastics surgery and Ophthalmology without 
need for further interventions. She had a CT abdomen/pelvis that 
showed no evidence of hematoma. She also had x-rays of her left 
hand that showed no fracture. She was evaluated by Physical 
Therapy and cleared for discharge home.

# Leukocytosis: No evidence of infection. Negative UA and CXR. 
Likely in the setting of fall and normalized at discharge.

# Hypertension: Continued home lisinopril.  

====================
Transitional Issues:
====================
- Please follow-up pending urine culture from ___.
- Recommend to have TTE as an outpatient.
- Please follow-up with primary care doctor regarding starting 
aspirin as she did not wish to start this medication. She should 
also see a Cardiologist as an outpatient.
- Please ensure follow-up with Orthopedics.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Bisacodyl 10 mg PO DAILY:PRN constipation
 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
2. Multivitamins 1 TAB PO DAILY 
3. Bisacodyl 10 mg PO DAILY:PRN constipation 
4. Lisinopril 10 mg PO DAILY
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY: 
- Syncope  
- Left Pubic ramus hip fracture 
- Left mildly displaced fracture of the medial orbital wall
- HTN
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the ___ after you had a fall on 
the sidewalk. We performed images of your head and spine (CT C 
Spine and Head) that showed an injury to the area of your left 
eye. You were evaluated by the plastic surgery team and the eye 
doctors (___). You eye is working probably and you 
do not need surgery to fix the injury. 

We performed an X-Ray to exam your left hip. Your left hip has a 
fracture. You were evaluated by the orthopedic surgery team and 
they stated that you do need an operation to fix the fracture. 
We performed imaging to look at your abdomen and pelvis to 
ensure there was no further injury on. The surgery team agreed 
there was no additionally injuries and no surgery is required. 

You were also found to have elevated cardiac enzyme called 
troponin which indicates damage to the heart muscle. This is 
likely due to stress from your fall. We watched this enzyme and 
it improved during your stay. We recommended that you stay to 
have and echocardiogram to look at the motion of your heart but 
you wished to leave and have this done as an outpatient. You 
understood the risks of leaving including more damage to your 
heart muscle and decided to leave against medical 
recommendations. Please have this echocardiogram done as an 
outpatient.

Please attempt to schedule an outpatient echocardiogram. Also 
please follow-up with your primary care doctor and the 
Orthopedics doctors as below.

We wish you all the best,
Your ___ Team
 
Followup Instructions:
___